US09326973B2
To a solution of (S)-benzyl 2-(tert-butoxycarbonylamino)-4-hydroxy-3,3-dimethylbutanoate (0.3 g) in DCM (3 mL) was added DMAP (0.109 g, 0.889 mmol) and acetic anhydride (0.084 mL, 0.889 mmol). The reaction mixture was stirred at rt for 16 hrs, then diluted with EtOAc, washed with sat. NaHCO3, water, sat. NaCl, dried over anhydrous Na2SO4, filtered and concentrated to yield an oil. The crude product was purified by silica gel chromatography (0-100% EtOAc in hexane) to yield (S)-benzyl 4-acetoxy-2-(tert-butoxycarbonylamino)-3,3-dimethylbutanoate (0.31 g). LC/MS (Cond. N-1): [M+Na]+ 402.22, RT=3.821 min.

reactant | (S)-benzyl 2-(tert-butoxycarbonylamino)-4-hydroxy-3,3-dimethylbutanoate | 0.3 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)OCC1=CC=CC=C1)C(CO)(C)C | C18H27NO5
reactant | acetic anhydride | 0.889 mmol, 0.084 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.889 mmol, 0.109 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-benzyl 4-acetoxy-2-(tert-butoxycarbonylamino)-3,3-dimethylbutanoate | 0.31 g | C(C)(=O)OCC([C@@H](C(=O)OCC1=CC=CC=C1)NC(=O)OC(C)(C)C)(C)C | C20H29NO6
